US04556672
3-(2-Furoyl)-2-oxindole
To a stirred solution of 5.5 g (0.24 mole) of sodium in 150 ml of ethanol was added 13.3 g (0.10 mole) of 2-oxindole at room temperature. The resulting slurry was cooled to ice-bath temperature, and then 15.7 g (0.12 mole) of 2-furoyl chloride was added, dropwise, during 10-15 minutes. The ice-bath was removed, and an additional 100 ml of ethanol was added and then the reaction mixture was heated under reflux for 7 hours. The reaction mixture was allowed to stand overnight and then the solid was filtered off. The solid was added to 400 ml of water and the resulting mixture was acidified using concentrated hydrochloric acid. The mixture was cooled with ice and the solid was collected by filtration. The solid residue was recrystallized from 150 ml of acetic acid, affording 8.3 g of yellow crystals, m.p. 209°-210° C. (dec.).

reactant | sodium | 0.24 mole, 5.5 g | [Na] | Na
reactant | 2-oxindole | 0.10 mole, 13.3 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | 2-furoyl chloride | 0.12 mole, 15.7 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 3-(2-Furoyl)-2-oxindole | 8.3 g | O1C(=CC=C1)C(=O)C1C(NC2=CC=CC=C12)=O | C13H9NO3
